US07282588B2
Preparation of N-phenyl-N′-{4-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1-(2,2,2-trifluoroethyl)-1H-pyrazol-3-yl]phenyl}urea
A mixture of N-{4-[4-bromo-1-(2,2,2-trifluoroethyl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea (0.059 mmol), 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine (0.059 mmol), tetrakis(triphenylphosphine)palladium(0) (0.003 mmol), saturated sodium bicarbonate (0.177 mL) and anhydrous N,N-dimethylformamide (1 mL) was stirred at 100° C. in a sealed tube for 4 h and cooled to room temperature. Filtration through a pad of Celite, concentration in vacuo and Gilson reverse phase HPLC purification furnished the title compound as a white solid (35%). ESMS [M+H]+: 477.2

reactant | N-{4-[4-bromo-1-(2,2,2-trifluoroethyl)-1H-pyrazol-3-yl]phenyl}-N′-phenylurea | 0.059 mmol | BrC=1C(=NN(C1)CC(F)(F)F)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C18H14BrF3N4O
reactant | 4-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1H-pyrrolo[2,3-b]pyridine | 0.059 mmol | CC1(OB(OC1(C)C)C1=C2C(=NC=C1)NC=C2)C | C13H17BN2O2
reactant | sodium bicarbonate | 0.177 mL | C([O-])(O)=O.[Na+]
catalyst | tetrakis(triphenylphosphine)palladium(0) | 0.003 mmol | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 1 mL | CN(C=O)C | C3H7NO
product | N-phenyl-N′-{4-[4-(1H-pyrrolo[2,3-b]pyridin-4-yl)-1-(2,2,2-trifluoroethyl)-1H-pyrazol-3-yl]phenyl}urea | 35% | C1(=CC=CC=C1)NC(=O)NC1=CC=C(C=C1)C1=NN(C=C1C1=C2C(=NC=C1)NC=C2)CC(F)(F)F | C25H19F3N6O
